US07902248B2
Ammonium chloride (1.60 g, 29.9 mmol) was slurried in toluene (30 mL) and cooled to 0° C. A 2.0 M solution of trimethylaluminum in toluene (15 mL, 30 mmol) was added dropwise and the cooling bath was removed. After stirring 1.5 h, a solution of benzyl cyanide (1.15 mL, 9.96 mmol) in toluene (20 mL) was added dropwise. The reaction mixture was heated to 80° C. for 16 h, then allowed to cool and poured carefully into a slurry of Merck silica gel 60, 40-63 μm (22 g) in chloroform (75 mL). After stirring 5 min, this slurry was filtered and the cake was washed with methanol (2×75 mL). The combined filtrates were concentrated in vacuo to precipitate ammonium chloride, which was removed by filtration. To the resulting filtrate, was added a 4.0 M solution of hydrochloric acid in dioxane (7 mL, 28 mmol). The resulting mixture was added to diethyl ether (220 mL) and isopropyl alcohol and this mixture was then concentrated in vacuo. The residue was stirred in diethyl ether (100 mL) for 10 min and then allowed to stand. The supernatant was poured off and the residue was dried in vacuo to afford 2-phenyl-acetamidine hydrochloride (1.6 g) as a faintly yellow paste contaminated with ammonium chloride and isopropyl alcohol. This was used without further purification.

reactant | Ammonium chloride | 29.9 mmol, 1.60 g | [Cl-].[NH4+]
reactant | trimethylaluminum | C[Al](C)C
reactant | benzyl cyanide | 9.96 mmol, 1.15 mL | C(C1=CC=CC=C1)C#N | C8H7N
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 28 mmol, 7 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 30 mmol, 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | diethyl ether | 220 mL | C(C)OCC | C4H10O
product | 2-phenyl-acetamidine hydrochloride | 1.6 g | Cl.C1(=CC=CC=C1)CC(=N)N | InChI=1S/C8H10N2.ClH/c9-8(10)6-7-4-2-1-3-5-7;/h1-5H,6H2,(H3,9,10);1H
